US04438128
1. 5-(2-Phthalimidoethylamino)-1,3,6-trimethylpyrimidine-2,4(1H,3H)-dione
24.7 g. 5-Amino-1,3,6-trimethylpyrimidine-2,4(1H,3H)-dione, 44.5 g. N-(2-bromoethyl)-phthalimide and 30.2 g. potassium carbonate are stirred in 450 ml. acetonitrile for 4 days in an autoclave at 110° to 130° C. The inorganic salts are filtered off with suction and the filtrate is evaporated. The residue is purified over silica gel using ethyl acetate as elution agent. There are obtained 13.7 g. (27% of theory) of the desired product in the form of colorless crystals; m.p. 178°-180° C.

reactant | 5-Amino-1,3,6-trimethylpyrimidine-2,4(1H,3H)-dione | NC=1C(N(C(N(C1C)C)=O)C)=O | C7H11N3O2
reactant | N-(2-bromoethyl)-phthalimide | BrCCN1C(C=2C(C1=O)=CC=CC2)=O | C10H8BrNO2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | C(C)#N | C2H3N
product | 5-(2-Phthalimidoethylamino)-1,3,6-trimethylpyrimidine-2,4(1H,3H)-dione | C1(C=2C(C(N1CCNC=1C(N(C(N(C1C)C)=O)C)=O)=O)=CC=CC2)=O | C17H18N4O4
